US07265115B2
tert-butyl 3-(6-nitro-3-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate
tert-Butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate (0.4 g; 1.9 mmol), prepared as described in (J. Med. Chem., (1998) 41, 674), 5-bromo-2-nitropyridine (0.43 g; 2.27 mmol), prepared as described in (J. Am. Chem. Soc., (1945) 67, 668), and triethylamine (0.23 g; 2.27 mmol) in toluene (10 mL) were heated at reflux for 14 hours. After evaporation of the solvent, additional triethylamine (0.23 g) was added and the mixture further heated at 140° C. for 2 hours. The residue was purified on SiO2 (CH2Cl2:EtOAc 9:1) to provide the title compound.

reactant | tert-Butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 1.9 mmol, 0.4 g | C12CNCC(CC1)N2C(=O)OC(C)(C)C | C11H20N2O2
reactant | 5-bromo-2-nitropyridine | 2.27 mmol, 0.43 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | triethylamine | 2.27 mmol, 0.23 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(6-nitro-3-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | [N+](=O)([O-])C1=CC=C(C=N1)N1CC2CCC(C1)N2C(=O)OC(C)(C)C | C16H22N4O4
